US07498433B2
Preparation of 2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepine (IV)
3H-[1,5]Benzodiazepine-2,4-diamine (32.50 g, 160 mmol, 86%) was added to a solution of dimethyl sulfoxide (220 ml), toluene (220 ml) and 1-methylpiperazine (165 ml). The mixture was heated for 16 h at 120° C. After cooling the product precipitated. It was filtered off and washed with isopropyl ether (80 ml) to give 40.1 g (74%) of the title compound as off-white needles. The second crop was obtained by adding isopropyl ether (410 ml) to the filtrate. The mixture was allowed to stand overnight at 4° C., the crystallised product was filtered off to give additional 4.25 g (8%) of the title compound. For analytical purposes the product was recrystallised from ethyl acetate.

reactant | 3H-[1,5]Benzodiazepine-2,4-diamine | 160 mmol, 32.50 g | N1=C(CC(=NC2=C1C=CC=C2)N)N | C9H10N4
reactant | dimethyl sulfoxide | 220 ml | CS(=O)C | C2H6OS
reactant | 1-methylpiperazine | 165 ml | CN1CCNCC1 | C5H12N2
solvent | toluene | 220 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepine | 40.1 g, 74% | CN1CCN(CC1)C=1CC(=NC2=C(N1)C=CC=C2)N2CCN(CC2)C | C19H28N6
